US06436929B1
A solution of 6-(3-fluorophenyl)-4-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (0.15 g, 0.58 mmol) in toluene was treated with Lawesson's reagent according to the procedure in example 9 to yield 6-(3-fluorophenyl)-4-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-thione (0.08 g, 50%) as an off-white solid (0.08 g, 50%): mp 173-174° C.; 1H-NMR (DMSO-d6) δ12.27 (s, 1H), 7.70 (dd, 1H, J=8.2, 2.0 Hz), 7.62 (s, 1H), 7.46-7.56 (m, 3H), 7.15-7.22 (m, 1H), 7.11 (d, 1H, J=8.3 Hz), 5.64 (q, 1H, J=6.6 Hz), 1.67 (d, 3H, J=6.6 Hz); MS (ESI) m/z 272 [M−H]−.

reactant | 6-(3-fluorophenyl)-4-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.58 mmol, 0.15 g | FC=1C=C(C=CC1)C=1C=CC2=C(C(OC(N2)=O)C)C1 | C15H12FNO2
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-(3-fluorophenyl)-4-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-thione | 0.08 g | FC=1C=C(C=CC1)C=1C=CC2=C(C(OC(N2)=S)C)C1 | C15H12FNOS
